US09403839B2
A solution of [8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone (100 mg, 0.24 mmol) in dichloromethane (3.4 mL) was cooled to 0° C. and treated with Dess-Martin periodinane (100 mg, 0.24 mmol). The reaction mixture was stirred for two hours and was quenched by the addition of saturated aqueous sodium sulfite. The mixture was extracted with dichloromethane (3×25 mL), and the combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified on silica gel utilizing a gradient of 50-100% ethyl acetate in hexanes to yield 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-8-one (84 mg) ESI-MS m/z calc. 422.22, found 423.3 (M+1)+; Retention time: 1.41 minutes (3 min run).

reactant | [8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone | 0.24 mmol, 100 mg | OC1CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)OC(C1)C=1C=NC=CC1 | C25H32N2O4
reactant | Dess-Martin periodinane | 0.24 mmol, 100 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 3.4 mL | ClCCl | CH2Cl2
product | 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-8-one | 84 mg | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(CC(O3)C=3C=NC=CC3)=O)C=C1)C | C25H30N2O4
